US06423717B1
4-Methoxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)phenylamine Hydrochloride (D39)
A solution of 4-(2-methoxy-5-nitrophenyl)-1-methyl-1,2,3,6-tetrahydropyridine (D37) (570 mg, 2 mmol), in ethanol (35 ml), was warmed to 60° C. and treated dropwise with a solution of stannous chloride (2 g) in cone. hydrochloric acid (4 ml). The mixture was heated for a further 2 h after addition, and allowed to cool. The precipitate was filtered off, and washed with ethanol to give the title compound (D39) as a pale yellow powder (580 mg, 99%). MH+=219.

reactant | 4-(2-methoxy-5-nitrophenyl)-1-methyl-1,2,3,6-tetrahydropyridine | 2 mmol, 570 mg | COC1=C(C=C(C=C1)[N+](=O)[O-])C=1CCN(CC1)C | C13H16N2O3
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 4-Methoxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)phenylamine Hydrochloride | Cl.COC1=C(C=C(C=C1)N)C=1CCN(CC1)C | InChI=1S/C13H18N2O.ClH/c1-15-7-5-10(6-8-15)12-9-11(14)3-4-13(12)16-2;/h3-5,9H,6-8,14H2,1-2H3;1H
